US09353108B2
G) (2-Chloro-6-cyclopropyl-2′,4′-difluoro-3-methoxybiphenyl-4-yl)methanol
Diisobutylaluminum hydride (1.5 M toluene solution, 6 mL) was added at 0° C. to a THF (40 mL) solution of methyl 2-chloro-6-cyclopropyl-2′,4′-difluoro-3-methoxybiphenyl-4-carboxylate (1.17 g), and the mixture was stirred at room temperature for 1 hour in a nitrogen atmosphere. Diisobutylaluminum hydride (1.5 M toluene solution, 2 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 30 minutes in a nitrogen atmosphere. Then, diisobutylaluminum hydride (1.5 M toluene solution, 2 mL) was further added thereto, and the mixture was stirred at room temperature for 30 minutes in a nitrogen atmosphere. Sodium sulfate decahydrate was added to the reaction mixture at 0° C., and the mixture was filtered through celite. Then, the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.07 g).

reactant | Diisobutylaluminum hydride | 1.5 M, 6 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 2-chloro-6-cyclopropyl-2′,4′-difluoro-3-methoxybiphenyl-4-carboxylate | 1.17 g | ClC1=C(C(=CC(=C1OC)C(=O)OC)C1CC1)C1=C(C=C(C=C1)F)F | C18H15ClF2O3
reactant | Diisobutylaluminum hydride | 1.5 M, 2 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1.5 M, 2 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (2-Chloro-6-cyclopropyl-2′,4′-difluoro-3-methoxybiphenyl-4-yl)methanol | 1.07 g | ClC1=C(C(=CC(=C1OC)CO)C1CC1)C1=C(C=C(C=C1)F)F | C17H15ClF2O2
